US04262128
By sequential reaction of diethyl 2-amino-2-methylnonanedioate with cyclohexyl vinyl ketone, sodium borohydride, and cyanic acid according to the general procedure described in Example 105, 5-(6-carboxyhexyl)-1-(3-cyclohexyl-3-hydroxypropyl)-5-methylhydantoin was obtained as a mixture of diastereomers. Separation by high performance liquid chromatography gave the individual racemic diastereomers as colourless gums, the less polar isomer having Rf. 0.52 relative to Rf. 0.48 for the more polar isomer on SiO2 in chloroform-methanol-acetic acid 90:5:5. The less polar isomer gave characteristic 'H n.m.r. signals at δ9.34 (1H, broad singlet, exch., NH), 5.83 (2H, broad singlet, exch., CO2H and OH), 3.6, 3.3 and 3.1 (3H, three multiplets, C-13 protons and C-15 methine), 2.31 (2H, triplet, CH2 adjacent to CO2H) and 1.39 (singlet, isolated CH3) in CDCl3. The more polar isomer gave characteristic 'H n.m.r. signals at δ9.23 (1H, broad singlet, exch., NH), 5.73 (2H, broad singlet, exch., CO2H and OH), 3.38 (3H, multiplet, C-15 methine and C-13 protons), 2.32 (2H, triplet, CH2 adjacent to CO2LH) and 1.40 (singlet, isolated CH3) in CDCl 3.

reactant | diethyl 2-amino-2-methylnonanedioate | NC(C(=O)OCC)(CCCCCCC(=O)OCC)C | C14H27NO4
reactant | cyclohexyl vinyl ketone | C(=C)C(=O)C1CCCCC1 | C9H14O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | cyanic acid | N#CO | CHNO
product | 5-(6-carboxyhexyl)-1-(3-cyclohexyl-3-hydroxypropyl)-5-methylhydantoin | C(=O)(O)CCCCCCC1(C(NC(N1CCC(O)C1CCCCC1)=O)=O)C | C20H34N2O5
